### PR TITLE
[Merged by Bors] - chore(RingTheory/HopfAlgebra): redo tensor product

### PR DESCRIPTION
**Pull request by erdOne**
...without category theory, so that we can easily generalize to the base change of hopf algebras later.

This also makes things universe-polymorphic.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Category/CoalgCat/ComonEquivalence.lean [hunk 1]
```diff
@@ -7,6 +7,8 @@ import Mathlib.CategoryTheory.Monoidal.Braided.Opposite
 import Mathlib.Algebra.Category.ModuleCat.Monoidal.Symmetric
 import Mathlib.CategoryTheory.Monoidal.Comon_
 import Mathlib.Algebra.Category.CoalgCat.Basic
+import Mathlib.RingTheory.Coalgebra.TensorProduct
+import Mathlib.LinearAlgebra.TensorProduct.Tower
```
Comment (YaelDillies) [inline Mathlib/Algebra/Category/CoalgCat/ComonEquivalence.lean:11]: Alphabet

File: Mathlib/RingTheory/Coalgebra/TensorProduct.lean [hunk 2]
```diff
@@ -1,90 +1,160 @@
...
+/-- `expand_comul R x with x₁ x₂` attempts to replace `comul (R := R) x` by
+`x₁ ⊗ₜ x₂` via linearity. -/
+scoped macro "expand_comul" ring:ident var:ident "with" var₁:ident var₂:ident : tactic =>
+  `(tactic|
+    (induction comul (R := $ring) $var with
+      | zero => simp only [tmul_zero, LinearEquiv.map_zero, LinearMap.map_zero,
+          zero_tmul, zero_mul, mul_zero]
+      | add _ _ h₁ h₂ => simp only [LinearEquiv.map_add, LinearMap.map_add,
+          tmul_add, add_tmul, add_mul, mul_add, h₁, h₂]
+      | tmul $var₁ $var₂ => ?_))
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Coalgebra/TensorProduct.lean:70]: I don't like this, but I have nothing better to suggest. It lies at a weird middle point between generality and specificity, so  I am happy to leave it like that

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/RingTheory/Coalgebra/TensorProduct.lean [hunk 3]
```diff
@@ -1,90 +1,160 @@
...
+
+@[deprecated (since := "2025-04-09")] alias instCoalgebraStruct_counit := counit_def
+
+@[simp]
+lemma comul_tmul (x : A) (y : B) : comul (x ⊗ₜ y) =
+  AlgebraTensorModule.tensorTensorTensorComm R R A A B B (comul x ⊗ₜ comul y) := rfl
+
+@[simp]
+lemma counit_tmul (x : A) (y : B) :
+  counit (R := R) (x ⊗ₜ[R] y) = counit (R := R) y • counit (R := R) x := rfl
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Coalgebra/TensorProduct.lean:59]:
```suggestion
lemma comul_tmul (x : A) (y : B) :
    comul (x ⊗ₜ y) =
      AlgebraTensorModule.tensorTensorTensorComm R R A A B B (comul x ⊗ₜ comul y) := rfl

@[simp]
lemma counit_tmul (x : A) (y : B) :
   counit (R := R) (x ⊗ₜ[R] y) = counit (R := R) y • counit (R := R) x := rfl
```

Comment (erdOne) [reply Mathlib/RingTheory/Coalgebra/TensorProduct.lean:59]: The indentation to `counit` is changed from 2 spaces to 3. Is this intentional?

File: Mathlib/RingTheory/Bialgebra/TensorProduct.lean [hunk 4]
```diff
@@ -14,126 +14,110 @@ We define the data in the monoidal structure on the category of bialgebras - e.g
...
 
-namespace Bialgebra.TensorProduct
+variable {R A B C D}
 
-variable {R A B C D : Type u} [CommRing R] [Ring A] [Ring B] [Ring C] [Ring D]
-    [Bialgebra R A] [Bialgebra R B] [Bialgebra R C] [Bialgebra R D]
+variable [Semiring C] [Semiring D] [Bialgebra R C] [Bialgebra R D]
 
 /-- The tensor product of two bialgebra morphisms as a bialgebra morphism. -/
-noncomputable def map (f : A →ₐc[R] B) (g : C →ₐc[R] D) :
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Bialgebra/TensorProduct.lean:66]: What's the reason for the variable swap here? Does it make sense to split to its own PR?

Comment (erdOne) [reply Mathlib/RingTheory/Bialgebra/TensorProduct.lean:66]: This PR is split from #25171 and I need to change the variables around there because different bialgebras are over different bases in that PR. I hope this is fine as long as I'm not making mathlib worse. But I can revert the changes here and redo them in that PR if you prefer.

File: Mathlib/RingTheory/Coalgebra/TensorProduct.lean (hunk 3 above)
Comment (eric-wieser) [reply Mathlib/RingTheory/Coalgebra/TensorProduct.lean:59]: Whoops, I meant 4

File: Mathlib/LinearAlgebra/TensorProduct/Tower.lean [hunk 5]
```diff
@@ -520,6 +520,12 @@ theorem tensorTensorTensorComm_symm_tmul (m : M) (n : N) (p : P) (q : Q) :
     (tensorTensorTensorComm R A M N P Q).symm ((m ⊗ₜ p) ⊗ₜ (n ⊗ₜ q)) = (m ⊗ₜ n) ⊗ₜ (p ⊗ₜ q) :=
   rfl
 
+theorem tensorTensorTensorComm_eq :
+    tensorTensorTensorComm R R M N P Q = TensorProduct.tensorTensorTensorComm R M N P Q := by
```
[the remark this answers is not in the document]
Comment (erdOne) [reply Mathlib/LinearAlgebra/TensorProduct/Tower.lean:524]: This is plain equality without coercion. I could change the name to `tensorTensorTensorComm_eq_ tensorTensorTensorCom` but I'm not sure if this is more descriptive.

[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/TensorProduct/Tower.lean:524]: Ah, I get it now. Could you add a comment along the lines of "the heterobasic version coincides with the regular version"? I'd assumed one of these was the algebra equiv, but obviously I was wrong.

File: Mathlib/RingTheory/Coalgebra/TensorProduct.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/RingTheory/Coalgebra/TensorProduct.lean:71]: #25197 has one version of that induction principle, but maybe it's more convenient to sum over a sigma type on Fin n, or an arbitrary fintype, instead.

Comment (erdOne) [reply Mathlib/RingTheory/Coalgebra/TensorProduct.lean:71]: I sill want it to do `simp [map_sum, tmul_sum]` etc and then `sum_congr` and then `intro` so such macros will still be necessary.

Comment (eric-wieser) [reply Mathlib/RingTheory/Coalgebra/TensorProduct.lean:71]: Right, you need
```lean
induction comul (R := R) x using TensorProduct.fin_sum_induction with | _ x₁ x₂;
      simp only [map_sum, sum_tmul, tmul_sum];
      congr 1;
      ext i : 1
```
and then you have `x₁ i` around in the goal instead of just `x₁`.

File: Mathlib/RingTheory/Coalgebra/TensorProduct.lean [hunk 6]
```diff
@@ -1,90 +1,161 @@
...
+
+/-- `expand_comul R x with x₁ x₂` attempts to replace `comul (R := R) x` by
+`x₁ ⊗ₜ x₂` via linearity. -/
+scoped macro "expand_comul" ring:ident var:ident "with" var₁:ident var₂:ident : tactic =>
+  `(tactic|
+    (induction comul (R := $ring) $var with
+      | zero => simp only [tmul_zero, LinearEquiv.map_zero, LinearMap.map_zero,
+          zero_tmul, zero_mul, mul_zero]
+      | add _ _ h₁ h₂ => simp only [LinearEquiv.map_add, LinearMap.map_add,
+          tmul_add, add_tmul, add_mul, mul_add, h₁, h₂]
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Coalgebra/TensorProduct.lean:70]: Should we have a `distrib_simp` simp-set that expands add over multiplication-like objects and `map_add`?

File: Mathlib/RingTheory/Coalgebra/TensorProduct.lean [hunk 7]
```diff
@@ -1,90 +1,161 @@
...
+    comul (x ⊗ₜ y) =
+      AlgebraTensorModule.tensorTensorTensorComm R R A A B B (comul x ⊗ₜ comul y) := rfl
+
+@[simp]
+lemma counit_tmul (x : A) (y : B) :
+    counit (R := R) (x ⊗ₜ[R] y) = counit (R := R) y • counit (R := R) x := rfl
+
+/-- `expand_comul R x with x₁ x₂` attempts to replace `comul (R := R) x` by
+`x₁ ⊗ₜ x₂` via linearity. -/
+scoped macro "expand_comul" ring:ident var:ident "with" var₁:ident var₂:ident : tactic =>
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Coalgebra/TensorProduct.lean:64]:
```suggestion
scoped macro "expand_comul" ring:term ", " var:term "with " var₁:ident var₂:ident : tactic =>
```
to allow rings that are not just variables

File: Mathlib/RingTheory/Coalgebra/TensorProduct.lean (hunk 6 above)
Comment (erdOne) [reply Mathlib/RingTheory/Coalgebra/TensorProduct.lean:70]: Yes but also it might not work here because of performance issues. For example `map_add` is being intentionally replaced by `LinearMap.map_add` or else it will timeout.

File: Mathlib/RingTheory/Coalgebra/TensorProduct.lean [hunk 8]
```diff
@@ -1,90 +1,161 @@
...
+@[simp]
+lemma comul_tmul (x : A) (y : B) :
+    comul (x ⊗ₜ y) =
+      AlgebraTensorModule.tensorTensorTensorComm R R A A B B (comul x ⊗ₜ comul y) := rfl
+
+@[simp]
+lemma counit_tmul (x : A) (y : B) :
+    counit (R := R) (x ⊗ₜ[R] y) = counit (R := R) y • counit (R := R) x := rfl
+
+/-- `expand_comul R x with x₁ x₂` attempts to replace `comul (R := R) x` by
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Coalgebra/TensorProduct.lean:62]:
```suggestion
/-- `expand_comul R, x with x₁ x₂` attempts to replace `comul (R := R) x` by
```

File: Mathlib/RingTheory/Coalgebra/TensorProduct.lean [hunk 9]
```diff
@@ -1,90 +1,161 @@
...
+`x₁ ⊗ₜ x₂` via linearity. -/
+scoped macro "expand_comul" ring:term ", " var:term "with " var₁:ident var₂:ident : tactic =>
+  `(tactic|
+    (induction comul (R := $ring) $var with
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Coalgebra/TensorProduct.lean:66]: I guess this could be
```suggestion
scoped macro "tensor_induction " var:term "with " var₁:ident var₂:ident : tactic =>
  `(tactic|
    (induction $term with
```
and then `tensor_induction comul (R := R) var with x y` where you use it below. This is obviously a bit wordier, but nothing in the tactic is really about comul other than the major premise.

File: Mathlib/RingTheory/Coalgebra/TensorProduct.lean (hunk 2 above)
Comment (erdOne) [reply Mathlib/RingTheory/Coalgebra/TensorProduct.lean]: I can see why such induction principles are useful but I am not convinced that they are better here. 
Another issue is my version produces `goals unsolved` when fails but this `congr` might make the goal unreadable when it doesn't do what it is intended to do.

Comment (eric-wieser) [reply Mathlib/RingTheory/Coalgebra/TensorProduct.lean]: Yes; to be clear, I was agreeing that my solution doesn't seem to be be better.

File: Mathlib/RingTheory/HopfAlgebra/TensorProduct.lean [hunk 10]
```diff
@@ -13,29 +13,39 @@ We define the Hopf algebra instance on the tensor product of two Hopf algebras.
...
-        map_comp, Algebra.linearMap_comp_mul']
-    mul_antipode_lTensor_comul := by
-      simp only [comul_def, counit_def, LinearMap.lTensor_def,
-        ← map_id, ← LinearMap.comp_assoc (map _ _), ← tensorTensorTensorComm_comp_map,
-        Algebra.mul'_comp_tensorTensorTensorComm, ← map_comp]
-      simp only [← LinearMap.lTensor_def, LinearMap.comp_assoc, mul_antipode_lTensor_comul,
-        map_comp, Algebra.linearMap_comp_mul'] }
+open TensorProduct Coalgebra.TensorProduct
+
+namespace HopfAlgebra.TensorProduct
```
Comment (eric-wieser) [inline Mathlib/RingTheory/HopfAlgebra/TensorProduct.lean:18]:
```suggestion
namespace TensorProduct
```
I don't think you particularly want `antipode_def` in the nested namespace (and you'd need to deprecate it if you did)

File: Mathlib/RingTheory/Coalgebra/TensorProduct.lean (hunk 9 above)
Comment (erdOne) [reply Mathlib/RingTheory/Coalgebra/TensorProduct.lean:66]: Are you suggesting `hopf_tensor_induction comul (R := R) var with x y` or `hopf_tensor_induction R, var with x y`? And still scoped in `Coalgebra`?

Comment (erdOne) [reply Mathlib/RingTheory/Coalgebra/TensorProduct.lean:66]: I am open to change to whatever syntax as long as it fits in one line. But I suspect we should first think about how to generalize the actual macro before generalizing the syntax (which I am happy to experiment on), but such a task is hopefully out of scope of this PR.

**Comment by eric-wieser** [comment]
bors merge

Thanks! This has been on my TODO list ever since the universe monomorphic one was merged.
